US05589478
A mixture of 4-tert-butyl-N-{6-[2-(5-bromopyrimidin-2-yloxy)ethoxy]-5-(4-methylphenyl)pyrimidin-4-yl}benzenesulfonamide (1.00 g), zinc cyanide (784 mg), tetrakis(triphenylphosphine)palladium (250 mg) and 1,3-dimethyl-2-imidazolidinone (40 ml) is stirred at 80° C. for 6 hours under argon atmosphere. The mixture is cooled to room temperature, and diluted with saturated aqueous ammonium chloride solution. The mixture is extracted with ethyl acetate, and the organic layer is washed with water (twice) and brine, dried over sodium sulfate, and filtered. The filtrate is concentrated under reduced pressure, and the residue is purified by silica gel column chromatography (solvent; chloroform/ethyl acetate=10:1) and recrystallized from tetrahydrofuran/ethyl acetate to give 4-tert-butyl-N-{6-[2-(5-cyanopyrimidin-2-yloxy)ethoxy]-5-(4-methylphenyl)pyrimidin-4-yl}benzenesulfonamide (590 mg) as colorless crystalline powder.

reactant | 4-tert-butyl-N-{6-[2-(5-bromopyrimidin-2-yloxy)ethoxy]-5-(4-methylphenyl)pyrimidin-4-yl}benzenesulfonamide | 1.00 g | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)NC1=NC=NC(=C1C1=CC=C(C=C1)C)OCCOC1=NC=C(C=N1)Br | C27H28BrN5O4S
reactant | 1,3-dimethyl-2-imidazolidinone | 40 ml | CN1C(N(CC1)C)=O | C5H10N2O
solvent | ammonium chloride | [Cl-].[NH4+]
catalyst | zinc cyanide | 784 mg | [C-]#N.[Zn+2].[C-]#N
catalyst | tetrakis(triphenylphosphine)palladium | 250 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 4-tert-butyl-N-{6-[2-(5-cyanopyrimidin-2-yloxy)ethoxy]-5-(4-methylphenyl)pyrimidin-4-yl}benzenesulfonamide | 590 mg | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)NC1=NC=NC(=C1C1=CC=C(C=C1)C)OCCOC1=NC=C(C=N1)C#N | C28H28N6O4S
